US08193217B2
Granisetron (60.0 g) and toluene (12 parts) are charged to a suitable reactor and heated to dissolution. Conc. hydrochloric acid (1.1 eq) is added drop wise while maintaining the temperature at 50 to 60° C. The resulting suspension is distilled at below 80° C. to ⅔ volume and cooled to below 10° C. The solid is collected and dried to provide granisetron hydrochloride (53.6-67 g).

reactant | Granisetron | 60.0 g | CN1C=2C=CC=CC2C(=N1)C(=O)NC3CC4CCCC(C3)N4C | C18H24N4O
reactant | hydrochloric acid | 1.1 eq | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | granisetron hydrochloride | 53.6-67 g | CN1C=2C=CC=CC2C(=N1)C(=O)NC3CC4CCCC(C3)N4C.Cl | InChI=1S/C18H24N4O.ClH/c1-21-13-6-5-7-14(21)11-12(10-13)19-18(23)17-15-8-3-4-9-16(15)22(2)20-17;/h3-4,8-9,12-14H,5-7,10-11H2,1-2H3,(H,19,23);1H
